US05627198
2-Amino-5-(phenylcarbonyl) thiophene:
tert-Butyl [5-(phenylcarbonyl) thien-2-yl]carbamate (0.30 g, 0.99 mmol) is dissolved in 5 ml of trifluoroacetic acetic acid and the solution is stirred at room temperature for 2 hours. The trifluoroacetic acid is distilled off and the residue is partitioned between semisaturated sodium hydrogen carbonate solution and dichloromethane. The phases are separated and the aqueous phase is subjected to extraction with dichloromethane. The combined organic phases are dried over potassium carbonate and filtered and the solvent is distilled off.

reactant | tert-Butyl [5-(phenylcarbonyl) thien-2-yl]carbamate | 0.99 mmol, 0.30 g | C1(=CC=CC=C1)C(=O)C1=CC=C(S1)NC(OC(C)(C)C)=O | C16H17NO3S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-5-(phenylcarbonyl) thiophene | NC=1SC(=CC1)C(=O)C1=CC=CC=C1 | C11H9NOS
